US05514680
A suspension of 4-chloro-2,6-dinitroaniline (0.261 g, 1.19 mmol, Aldrich, used as received) in 6.66% aq. (NH4)2S (8.0 mL, prepared from 20% aq. solution available from Aldrich) and ethanol (8.0 mL) was refluxed for 45 min during which time it formed dark red solution. It was then cooled to 28° C. and the precipitated solid was filtered and dried under vacuum to yield 146 mg (65%) of pure 5-chloro-3-nitro-1,2-phenylenediamine as a shining red solid, 1H NMR (DMSO-d6): 5.031 (br s, 2H), 6.687 (br s, 2H), 6.912 (d, 1H, J=2.4 Hz), 7.413 (d, 1H, J=2.1 Hz).

reactant | 4-chloro-2,6-dinitroaniline | 1.19 mmol, 0.261 g | ClC1=CC(=C(N)C(=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H4ClN3O4
solvent | ethanol | 8.0 mL | C(C)O | C2H6O
product | 5-chloro-3-nitro-1,2-phenylenediamine | 146 mg, 65% | ClC=1C=C(C(=C(C1)N)N)[N+](=O)[O-] | C6H6ClN3O2
